US06054448
vi) 5-(3,3-Dicarboxycyclobutyl)-5-(2,2-diphenylethyl) imidazolidine-2,4-dione
A stirred mixture of 5-[3,3-di(ethoxycarbonyl) cyclobutyl]-5-(2,2-diphenylethyl)imidazolidine-2,4-dione (1.7 mmol) in 1M sodium hydroxide (17 ml) was heated to 70° C. for 2 hours. The cooled solution was filtered and the filtrate acidified with 5M hydrochloric acid (4 ml). The mixture was extracted with diethyl ether (30 ml) ethanol (3 ml) to give the title product as a white foam.

reactant | 5-[3,3-di(ethoxycarbonyl) cyclobutyl]-5-(2,2-diphenylethyl)imidazolidine-2,4-dione | 1.7 mmol | C(C)OC(=O)C1(CC(C1)C1(C(NC(N1)=O)=O)CC(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)OCC | C27H30N2O6
solvent | sodium hydroxide | 1M, 17 ml | [OH-].[Na+]
product | 5-(3,3-Dicarboxycyclobutyl)-5-(2,2-diphenylethyl) imidazolidine-2,4-dione | C(=O)(O)C1(CC(C1)C1(C(NC(N1)=O)=O)CC(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)O | C23H22N2O6
